US08003662B2
Step C: Preparation of N-(3-chloro-4-(2-(3-(diethylamino)prop-1-ynyl)thieno[3,2-b]pyridin-7-yloxy)phenyl)-N-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide:
Prepared from N-(3-chloro-4-(2-iodothieno[3,2-b]pyridin-7-yloxy)phenyl) -N-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide (0.160 g, 0.132 mmol), and N, N-diethylprop-2-yn-1-amine (0.0132 g, 0.118 mmol) according to the procedure for Example 6, Step B. The product was purified by Horizon reverse phase using Biotage 12M C18 column. The crude was loaded to the samplet with EtOAc and dried under vacuum. The product was eluted with 55-75% acetonitrile in water and was obtained as a white powder (20 mg, 26%). 1H NMR (CDCl3, 400 MHz) δ 10.14 (s, 1H), 8.50 (s, 1H), 8.46 (d, J=5.5 Hz, 1H), 7.90 (s, 1H), 7.54 (s, 1H), 7.46 (m, 3H), 7.20 (d, J=8.6 Hz, 1H), 7.05 (t, J=8.8 Hz, 2H), 6.42 (d, J=5.5 Hz, 1H), 3.71 (s, 2H), 2.65 (q, J=7, 14 Hz, 4H), 1.77 (m, 4H), 1.13 (t, J=7.2 Hz, 6H). LRMS (ESI pos) m/e 591 (M+1).

reactant | N-(3-chloro-4-(2-iodothieno[3,2-b]pyridin-7-yloxy)phenyl) -N-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 0.132 mmol, 0.160 g | ClC=1C=C(C=CC1OC1=C2C(=NC=C1)C=C(S2)I)N(C(=O)C2(CC2)C(=O)N)C2=CC=C(C=C2)F | C24H16ClFIN3O3S
reactant | N, N-diethylprop-2-yn-1-amine | 0.118 mmol, 0.0132 g | C(C)N(CC#C)CC | C7H13N
product | N-(3-chloro-4-(2-(3-(diethylamino)prop-1-ynyl)thieno[3,2-b]pyridin-7-yloxy)phenyl)-N-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 20 mg, 26% | ClC=1C=C(C=CC1OC1=C2C(=NC=C1)C=C(S2)C#CCN(CC)CC)N(C(=O)C2(CC2)C(=O)N)C2=CC=C(C=C2)F | C31H28ClFN4O3S
